Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([H:7])([H:8])([H:9])[H:11].[C:2](=[O:3])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],76.58603153437389
[C:5](=[O:6])([H:12])[H:13].[H:9][H:14].[O:1](/[C:2](=[C:3](\[O:4][H:11])[H:10])[H:8])[H:7]>>[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7],41.3513250467622
[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:10].[C:2](=[O:3])=[N:4][C:5](=[O:6])[H:11],75.9380888019905
[O:1]([C@@:2]([C:3](=[C:4]=[O:5])[H:10])([C:6]([H:9])([H:11])[H:12])[H:8])[H:7]>>[O:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4](=[O:5])[C:6]1([H:11])[H:12])[H:7],71.54853850557808
[C:1](=[O+:2][C:3](=[O:4])[C:5]([C-:6]([O:7][H:9])[H:13])([H:11])[H:12])([H:8])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],4.0661390661827
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[O:3][C@@:4]1([O:5][H:7])[C:6]([H:12])([H:13])[H:14],88.97311696448071
[C:1]([C@@:2]([O:3][H:10])([C:4]#[C:5][H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([O:3][H:10])([C:5](=[C:4])[H:11])[H:9])([H:6])([H:7])[H:8],55.918019626871995
[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6]>>[N:1]#[C:2][N-:6][N+:7]#[C:3][C:4](=[O:5])[H:8],89.95369428549982
[O:1]([C:2]1=[N:3][C@@:4]1(/[C:5](=[N:6]/[H:10])[H:9])[H:8])[H:7]>>[O:1]([c:2]1[n:3][c:4]([H:8])[c:5]([H:9])[n:6]1[H:10])[H:7],38.8612488516775
[C:1]([O:2][C:3](=[O:4])[C:5]([O:7][H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([H:13])[H:14]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],20.9018260078452
[C:1]([C:2]([C:7](=[C:6]=[C:3]([C:4]([H:13])([H:14])[H:15])[O:5][H:16])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10],90.71511520881428
[C:1]([O:4][H:10])([H:7])([H:8])[H:9].[C:2](#[N:3])[C:5]#[C:6][H:11]>>[C:1](/[C:2](=[N:3]\[O:4][H:10])[C:5]#[C:6][H:11])([H:7])([H:8])[H:9],92.10726867819099
[O:1]1[C@@:2]2([H:7])[C@:3]1([H:8])[N:4]1[C:5]([H:9])([H:10])[C@@:6]21[H:11]>>[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11],32.4293238114196
[C:4](=[N:5][C:6](=[O:7])[H:12])([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:8])[H:9]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],52.10776043554996
[C:1]([C:2]#[C:3][C:4](=[O:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]#[C:4][H:9])=[O:5])([H:6])([H:7])[H:8],71.24802209224269
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:10])[H:14])([H:7])([H:8])[H:9].[C:4]([C:5]([H:15])([H:16])[H:17])[O:6][H:18]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C@@:4]([C:5]([H:15])([H:16])[H:17])([O:6][H:18])[H:14])[H:10])([H:7])([H:8])[H:9],13.540603904090595
[C:1](=[C:2]([C:3](=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:12])[H:10])([H:7])[H:9].[H:8][H:11]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9],77.95863797625441
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[N:1](=[C:6](/[C:2]([O:3][C:4](=[O:5])[H:9])=[O:7])[H:10])\[H:8],76.1459612133772
[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8]>>[C:2](=[C:3]1[C@:4]2([H:12])[C:5]([H:13])([H:14])[C@@:6]1([H:15])[O:7]2)([H:9])[H:10].[O:1]([H:8])[H:11],65.8657917923875
[O:1]=[C:2]([O:3][C:4]([C:5]#[N:6])([H:8])[H:9])[H:7]>>[H:7][H:9].[O+:1]#[C-:2].[O:3]=[C:4]([C:5]#[N:6])[H:8],60.10516264240072
[N:1]([C+:2]=[C:6]=[N-:7])([O:5][C:4](=[O:3])[H:9])[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],2.641098371142121
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:14])[O:4][C@@:5]12[O:6][N:7]2[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],41.95380356626629
[O:1]([C:2]([C:3]([C:4][H:10])([H:7])[H:8])([H:6])[H:9])[H:5]>>[O:1]([C:2]1([H:6])[C:3]([H:7])([H:8])[C:4]1([H:9])[H:10])[H:5],0.15332206196160314
[C:1]([O+:7]=[C:6]([O:5][C-:2]1[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],12.721922910849187
[O:1]=[N:7][c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]1[H:11]>>[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1,101.7749065169162
[C:1]1([H:8])([H:10])[C@:2]([C:3]([C+:4]=[N:5][H:9])([H:12])[H:13])([H:11])[C-:6]=[C:7]1[H:14]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],15.311048195745414
[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7]>>[O:1]([C:2][N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7],72.72588595608521
